US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}-9-methyl-3,9-diazabicyclo[4.2.1]nonane-3-sulfonamide
To a solution of ethyl (2R)-2-[(2-[(2,3-difluorobenzyl)thio]-6-{[(9-methyl-3,9-diazabicyclo[4.2.1]non-3-yl)sulfonyl]amino}pyrimidin-4-yl)oxy]propanoate (the product from step i), 0.35 g) in THF (10 ml) was added 2M LiBH4 in THF (0.6 ml). The reaction was then stirred for 18 h at room temperature. Saturated NH4Cl (150 ml) was then added to the reaction mixture which was extracted with DCM (3×150 ml). Organics were combined, dried (MgSO4) and reduced in vacuo and the resulting residue was purified by prep HPLC to give the title compound as a white solid. Yield 20 mg

reactant | ethyl (2R)-2-[(2-[(2,3-difluorobenzyl)thio]-6-{[(9-methyl-3,9-diazabicyclo[4.2.1]non-3-yl)sulfonyl]amino}pyrimidin-4-yl)oxy]propanoate | FC1=C(CSC2=NC(=CC(=N2)O[C@@H](C(=O)OCC)C)NS(=O)(=O)N2CC3CCC(CC2)N3C)C=CC=C1F | C24H31F2N5O5S2
reactant | LiBH4 | 2M | [Li+].[BH4-]
reactant | NH4Cl | 150 ml | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}-9-methyl-3,9-diazabicyclo[4.2.1]nonane-3-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CC3CCC(CC2)N3C)O[C@@H](CO)C)C=CC=C1F | C22H29F2N5O4S2
